US05017212
2-Ethylimidazo[2,1-b]thiazole
A solution of 3.0 g of 2-aminothiazole and 4.5 g of 1-bromo-2-butanone in 50 ml of acetone is heated under reflux for an hour and the precipitated crystals are collected by filtration. The crystals in 30 ml of aqueous HBr solution (1N) is heated at 80°-90° C. for an hour. After cooling, the reaction mixture is neutralized with 10% aqueous sodium hydroxide solution and extracted with dichloromethane. The extract is washed with water, dried over anhydrous sodium sulfate and distilled under reduced pressure to obtain 3.0 g of the title compound as an oil.

reactant | 2-aminothiazole | 3.0 g | NC=1SC=CN1 | C3H4N2S
reactant | 1-bromo-2-butanone | 4.5 g | BrCC(CC)=O | C4H7BrO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-Ethylimidazo[2,1-b]thiazole | 3.0 g | C(C)C1=CN2C(S1)=NC=C2 | C7H8N2S
